US06797718B2
Using the general method of Example 89 Part H, 1-[3-(methanesulfonyl)propyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine (2.1 g, 5.23 mmol) was reacted with ammonium acetate (25 g) and purified to provide 1.14 g of 1-[3-(methanesulfonyl)propyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as white needles, mp 153.5-155.0 C. 1H NMR (300 MHz, CDCl3) 67 4.83 (br s, 2H), 4.48-4.42 (m, 2H), 3.07 (t, J=7.1 Hz, 2H), 2.95 (s, 3H), 2.82-2.77 (m, 2H), 2.45-2.25 (m, 2H), 1.94-1.81 (m, 2H), 1.07 (t, J=7.3 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 153.2, 148.3, 147.1, 138.9, 125.4, 104.0, 51.2, 42.9, 41.3, 29.5, 24.3, 22.1, 21.5, 14.0, 13.1; MS (APCI) m/z 325 (M+H)+; Anal. Calcd for C15H24O2N4S: C, 55.53; H, 7.46; N, 17.27; S, 9.87. Found: C, 55.53; H 7.44; N, 17.27; S, 9.90.

reactant | 1-[3-(methanesulfonyl)propyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine | 5.23 mmol, 2.1 g | CS(=O)(=O)CCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)CCC | C21H27N3O3S
reactant | ammonium acetate | 25 g | C(C)(=O)[O-].[NH4+]
product | 1-[3-(methanesulfonyl)propyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.14 g | CS(=O)(=O)CCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C15H24N4O2S
